US05519134
Cytosine hemihydrate (12.0 g, 100 mmol) was dried by coevaporation with pyridine, redissolved in dry pyridine (250 ml), and benzoyl chloride added dropwise (70.3 g, 500 mmol) with cooling. The solution was stirred overnight, water added and the solvent removed in vacuo. The residue was dissolved in 700 ml H2O containing 55 g NaOH. Once complete dissolution had occurred stirring was continued for one hour. The solution was then acidified to pH 4, and the white precipitate collected, boiled in 1 L ethanol and filtered again to give 16.1 g benzoylcytosine. Fifteen grams of this was suspended in 500 ml DMF with 9.7 g (70 mmol) K2CO3 and methyl bromoacetate (10.7 g, 70 mmol). The suspension was stirred for 3 days, filtered and the solvent removed. Water was added (100 ml) and 10 ml 4N HCl. The suspension was stirred 15 minutes and filtered. The solid was resuspended in 200 ml H2O containing 4.8 g NaOH. The suspension was stirred 45 minutes until all the solid had dissolved. The solution was then acidified to pH 2, the solid collected by filtration and dried to give 10.6 g product (43%). The product was identified by NMR.

reactant | Cytosine hemihydrate | 100 mmol, 12.0 g | O.N1C(=O)N=C(N)C=C1.N1C(=O)N=C(N)C=C1
reactant | benzoyl chloride | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | water | O | H2O
solvent | pyridine | 250 ml | N1=CC=CC=C1 | C5H5N
product | benzoylcytosine | 16.1 g | C(C1=CC=CC=C1)(=O)N1C(=O)N=C(N)C=C1 | C11H9N3O2
